US04028393
271 g (4.4 mols) of cyanogen chloride in 1.1 liter of isopropanol are introduced at -5° C. into a 3 liter glass vessel equipped with a stirrer, a thermometer and an inlet pipe. By means of a metering pump, a solution of 220 g (2 mols) of resorcinol and 430 g (4.04 mols) of triethyl amine in 750 ml of isopropanol is pumped in below the surface with stirring. The reaction temperature is best kept at -5° C. to +3° C. On completion of the reaction, the crystalline sludge formed is filtered off under suction from the isopropanol and the filter residue is washed with 100 ml of isopropanol. The residue is thoroughly stirred with 1.1 liter of water and filtered off under suction again. The filter residue is then taken up in 800 ml of methylene chloride and washed with water until free from chloride. Following the addition of 600 ml of perchloroethylene, the methylene chloride distils off initially at 45° to 50° C. and subsequently at 60° C. and at about 160 Torr. The residue is left to cool with stirring to 5°-10° C. and the resorcinol dicyanate which has crystallised out is filtered off under suction, washed twice with 50 ml of perchloroethylene and dried in a stream of air. 270 g (84% of the theoretical) of resorcinol cyanate are obtained. Mp: 81° C., nD90 :1.4980

reactant | cyanogen chloride | 4.4 mols, 271 g | N#CCl | CClN
reactant | resorcinol | 2 mols, 220 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | triethyl amine | 4.04 mols, 430 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 1.1 liter | C(C)(C)O | C3H8O
solvent | isopropanol | 750 ml | C(C)(C)O | C3H8O
product | resorcinol cyanate | [O-]C#N.C1(O)=CC(O)=CC=C1 | InChI=1S/C6H6O2.CHNO/c7-5-2-1-3-6(8)4-5;2-1-3/h1-4,7-8H;3H/p-1
